US08426411B2
To a solution of tert-butyl 2-ethyl-4-((methylsulfonyloxy)methyl)cyclopentanecarboxylate (0.295 g, 0.964 mmol) in DMF (5 mL) was added sodium azide (0.313 g, 4.82 mmol). The reaction was heated at about 50° C. for about 16 h and then cooled to about 15-20° C. Water (40 mL) was added to the reaction mixture. The aqueous solution was extracted with DCM (3×30 mL). The combined organic extracts were dried over anhydrous MgSO4, filtered, and concd under reduced pressure to give a dark brown oil. The brown oil was dissolved in THF (6.5 mL) and water (3.5 mL). Triphenylphosphine (0.316 g, 1.205 mmol) was added. The reaction mixture was stirred at about 25° C. for about 15 h. The organic solvent was removed under reduced pressure and the residue partitioned between saturated aqueous NaHCO3 (20 mL) and DCM (20 mL). The organic phase was concd under reduced pressure. The resulting residue was purified using silica gel chromatography eluting with a gradient of 0-20% (20% (7 N ammonium in MeOH) in MeOH)) in DCM to give tert-butyl 4-(aminomethyl)-2-ethylcyclopentanecarboxylate (0.102 g, 46%) as a brown oil: LC/MS (Table 1, Method b) Rt=1.72 min; MS m/z: 228 (M+H)+.

reactant | tert-butyl 2-ethyl-4-((methylsulfonyloxy)methyl)cyclopentanecarboxylate | 0.964 mmol, 0.295 g | C(C)C1C(CC(C1)COS(=O)(=O)C)C(=O)OC(C)(C)C | C14H26O5S
reactant | sodium azide | 4.82 mmol, 0.313 g | [N-]=[N+]=[N-].[Na+]
reactant | Triphenylphosphine | 1.205 mmol, 0.316 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | THF | 6.5 mL | C1CCOC1 | C4H8O
solvent | water | 3.5 mL | O | H2O
solvent | Water | 40 mL | O | H2O
product | tert-butyl 4-(aminomethyl)-2-ethylcyclopentanecarboxylate | 0.102 g, 46% | NCC1CC(C(C1)C(=O)OC(C)(C)C)CC | C13H25NO2
